US04927838
As in Example 112, 1-butyl-7-methoxy-2-naphthalenecarboxylic acid ethyl ester (5.4 g) in methanol (40 mL) was reacted with 2N sodium hydroxide solution (20 mL) at reflux for 2 hours to give, after the normal work up, 4.9 g of crude acid. Crystallization of the material from diethyl ether-hexane furnished 4.22 g of 1-butyl-7-methoxy-2-naphthalenecarboxylic acid, mp 123°-125° C. Anal. Calcd for C16H18O3 : C, 74.39; H, 7.02 Found: C, 74.27; H, 6.93

reactant | 1-butyl-7-methoxy-2-naphthalenecarboxylic acid ethyl ester | 5.4 g | C(C)OC(=O)C1=C(C2=CC(=CC=C2C=C1)OC)CCCC | C18H22O3
reactant | sodium hydroxide | 2N, 20 mL | [OH-].[Na+]
solvent | methanol | 40 mL | CO | CH4O
product | 1-butyl-7-methoxy-2-naphthalenecarboxylic acid | 4.22 g | C(CCC)C1=C(C=CC2=CC=C(C=C12)OC)C(=O)O | C16H18O3
